US07320986B2
4′-Bromo-4-hydroxy-5-methoxy-biphenyl-2-carbaldehyde
A mixture of 2-bromo-5-hydroxy-4-methoxy-benzaldehyde (1.00 g, 4.32 mmol), 4-bromophenyl boronic acid (1.04 g, 5.18 mmol), Pd(PPh3)4 (0.250 g), and CsF (1.97 g, 12.6 mmol) in DME/MeOH (1:1, 65 mL) was heated at 70° C. overnight. The mixture was diluted with CH2Cl2 and washed with water. The organic layer was dried over MgSO4, filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography eluting with hexane/CH2Cl2 (1:9) to give 0.809 g (60%) of the desired product which was carried into the next step without further purification. MS (DCI/NH3) m/z: 307.4 (M+H)+.

reactant | 2-bromo-5-hydroxy-4-methoxy-benzaldehyde | 4.32 mmol, 1.00 g | BrC1=C(C=O)C=C(C(=C1)OC)O | C8H7BrO3
reactant | 4-bromophenyl boronic acid | 5.18 mmol, 1.04 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | CsF | 12.6 mmol, 1.97 g | [F-].[Cs+]
solvent | DME MeOH | 65 mL | COCCOC.CO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.250 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-Bromo-4-hydroxy-5-methoxy-biphenyl-2-carbaldehyde | 0.809 g, 60% | BrC1=CC=C(C=C1)C=1C(=CC(=C(C1)OC)O)C=O | C14H11BrO3
